US04808602
A solution containing 2.0 grams of pyridoxamine dihydrochloride, purity 98%, (0.00813 moles), in 10 ml of water, at room temperature, was added dropwise during 5 minutes, to a stirred solution of 5.2 grams of menadione sodium bisulfite, purity 95%, (0.01496 moles), in 13 ml of water. After a few minutes of stirring at a temperature of 25° C., a white crystalline precipitate formed. The product was filtered, washed with a few milliliters of ice cold water, then dried in vacuum at 40°-45° C. until constant weight was achieved. The recovered dry product was a white crystalline powder weighing 5.05 grams. The assay gave a combined menadione content equal to 48.5%, with a yield (based on MSB) equal to 95% and a purity of 95.3%. The so obtained compound melted, with decomposition, at 171°-173° C. The product was moderately soluble in water (1.3 g/100 ml of water).

reactant | pyridoxamine dihydrochloride | 2.0 grams | CC1=NC=C(C(=C1O)CN)CO.Cl.Cl
reactant | menadione sodium bisulfite | 5.2 grams | CC1(CC(=O)C=2C=CC=CC2C1=O)S(=O)(=O)[O-].O.O.O.[Na+]
solvent | water | 10 ml | O | H2O
solvent | water | 13 ml | O | H2O
product | menadione | CC1=CC(=O)C=2C=CC=CC2C1=O | C11H8O2
